US06043248
Preparation of 6-amino-2-(2-naphthylmethyl)thio-4-pyrimidine carbonitrile (Cpd 277)
6-chloro-2-(2-naphthylmethyl)thio-4-pyrimidine carbonitrile (Cpd 276; 60 mg, 3.07 mmol) was stirred in THF/NH4OH (1:1, 15 ml) at 22° C. for 6 hrs. The reaction was diluted with ethyl acetate, washed with brine, dried with MgSO4, then concentrated in vacuo: 871 mg (2.97 mmol, 97%), mp 154-155° C.

reactant | 6-chloro-2-(2-naphthylmethyl)thio-4-pyrimidine carbonitrile | 3.07 mmol, 60 mg | ClC1=CC(=NC(=N1)SCC1=CC2=CC=CC=C2C=C1)C#N | C16H10ClN3S
reactant | THF NH4OH | 15 ml | C1CCOC1.[NH4+].[OH-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-amino-2-(2-naphthylmethyl)thio-4-pyrimidine carbonitrile | NC1=CC(=NC(=N1)SCC1=CC2=CC=CC=C2C=C1)C#N | C16H12N4S
